US07582775B2
C. 5-(1-Ethyl-propenyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester
A solution of 5-(1-ethyl-propenyl)-2-fluoro-benzaldehyde (8.70 g, 45.3 mmol) in DMF (40 mL) is treated with mercapto-acetic acid ethyl ester (8.16 g, 67.9 mmol) and K2CO3 (12.5 g, 90.6 mmol). The resulting suspension is stirred at 80° C. for 60 min and quenched with water (300 mL). The mixture is extracted with EtOAc (2×200 mL), and the organic layer is dried over Na2SO4, concentrated, and purified using silica gel column chromatography (6% EtOAc/Hex), to give the title compound as an oil (11.0 g, 89%).

reactant | 5-(1-ethyl-propenyl)-2-fluoro-benzaldehyde | 45.3 mmol, 8.70 g | C(C)C(=CC)C=1C=CC(=C(C=O)C1)F | C12H13FO
reactant | mercapto-acetic acid ethyl ester | 67.9 mmol, 8.16 g | C(C)OC(CS)=O | C4H8O2S
reactant | K2CO3 | 90.6 mmol, 12.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-(1-Ethyl-propenyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | 11.0 g, 89% | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(=CC)CC | C16H18O2S
